US08084448B2
B. 5-{4-[(E)-2-(1H-Benzoimidazol-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A solution of (E)-N-(2-aminophenyl)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylamide in acetic acid is stirred at 60° C. for 18 h. The solvent is removed under reduced pressure to give the title compound.

reactant | (E)-N-(2-aminophenyl)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylamide | NC1=C(C=CC=C1)NC(\C=C\C1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)=O | C24H22N4O5S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-{4-[(E)-2-(1H-Benzoimidazol-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | N1C(=NC2=C1C=CC=C2)/C=C/C2=CC(=C(C=C2)N2CC(NS2(=O)=O)=O)OCC2=CC=CC=C2 | C24H20N4O4S
